US05939359
Synthesis of 2-(2,4-difluorophenoxy)pyrazine-3-carboxylic acid
A solution of 5.3 g (20 mmol) of methyl 2-(2,4-difluorophenoxy)-3-pyrazinecarboxylate in 50 ml of methanol is treated with 5.6 g (0.1 mol) of potassium hydroxide at room temperature for 2 hours. The reaction mixture is freed from the solvent under reduced pressure and the residue is taken up in distilled water. On acidification to pH 2-3, the 2-(2,4-difluorophenoxy)-3-pyrazinecarboxylic acid is precipitated from the solution.

reactant | methyl 2-(2,4-difluorophenoxy)-3-pyrazinecarboxylate | 20 mmol, 5.3 g | FC1=C(OC2=NC=CN=C2C(=O)OC)C=CC(=C1)F | C12H8F2N2O3
reactant | potassium hydroxide | 0.1 mol, 5.6 g | [OH-].[K+]
solvent | methanol | 50 ml | CO | CH4O
solvent | water | O | H2O
product | 2-(2,4-difluorophenoxy)pyrazine-3-carboxylic acid | FC1=C(OC2=NC=CN=C2C(=O)O)C=CC(=C1)F | C11H6F2N2O3
